US08124610B2
N-(THIAZOL-2-YL)-6-THIOUREIDOPYRIDINE-3-SULFONAMIDE
Carbonothioic dichloride (2.0E1 uL, 0.00026 mol) was added to a solution of the 6-Amino-pyridine-3-sulfonic acid thiazol-2-ylamide (45 mg, 0.00018 mol) and N,N-Diisopropylethylamine (0.092 mL, 0.00053 mol) in Tetrahydrofuran (1.2 mL, 0.014 mol) at 0° C. under an atmosphere of Argon and was stirred for 40 min at 0° C. Saturated ammonium hydroxide solution was added to the reaction mixture and stirred for a few min, then warmed to ambient temperature. The reaction mixture was concentrated and then dried on a lyophilizer to give the crude product that was used in the next step without purification. Note: The starting material, 6-Amino-pyridine-3-sulfonic acid thiazol-2-ylamide, was TFA salts.

reactant | Carbonothioic dichloride | 0.00026 mol, 2.0E1 uL | C(=S)(Cl)Cl | CCl2S
reactant | 6-Amino-pyridine-3-sulfonic acid thiazol-2-ylamide | 0.00018 mol, 45 mg | S1C(=NC=C1)NS(=O)(=O)C=1C=NC(=CC1)N | C8H8N4O2S2
reactant | N,N-Diisopropylethylamine | 0.00053 mol, 0.092 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Tetrahydrofuran | 0.014 mol, 1.2 mL | O1CCCC1 | C4H8O
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-(THIAZOL-2-YL)-6-THIOUREIDOPYRIDINE-3-SULFONAMIDE | S1C(=NC=C1)NS(=O)(=O)C=1C=NC(=CC1)NC(=S)N | C9H9N5O2S3
